US05686424
L-Proline, 1-[2-(3,4,5-Trimethoxyphenyl)-2-Oxoethyl] Cyclohexyl amide Hydrochloride
Following the procedure described in Example 120, the coupling of N-[2-(3,4,5-trimethoxyphenyl)-2-oxoethyl] -L-proline hydrochloride (250 mg, 0.69 mmol) and cyclohexylamine (0.24 mL, 2.1 mmol) provided, after treatment with HCl in Et2O, 147 mg of the hydrochloride salt of L-proline, 1-[2-(3,4,5-trimethoxyphenyl)-2-oxoethyl] cyclohexylamide as a powder.

reactant | HCl | Cl | ClH
reactant | L-proline, 1-[2-(3,4,5-trimethoxyphenyl)-2-oxoethyl] cyclohexylamide | COC=1C=C(C=C(C1OC)OC)C(CC1(CCCCC1)NC([C@H]1NCCC1)=O)=O | C22H32N2O5
solvent | Et2O | CCOCC | C4H10O
product | L-Proline, 1-[2-(3,4,5-Trimethoxyphenyl)-2-Oxoethyl] Cyclohexyl amide Hydrochloride | Cl.COC=1C=C(C=C(C1OC)OC)C(CC1(CCCCC1)NC([C@H]1NCCC1)=O)=O | InChI=1S/C22H32N2O5.ClH/c1-27-18-12-15(13-19(28-2)20(18)29-3)17(25)14-22(9-5-4-6-10-22)24-21(26)16-8-7-11-23-16;/h12-13,16,23H,4-11,14H2,1-3H3,(H,24,26);1H/t16-;/m0./s1
